US04014920
48.5 g (0.27 mol) of 3-allyloxy-4-hydroxy-benzaldehyde, 104 g (1 mol) of malonic acid, 140 ml of pyridine and 4 ml of piperidine are heated to 100° C for 2 hours, whilst stirring. The volatile constituents are distilled off under reduced pressure at 80° C and the residue is stirred with 800 ml of water. The crystals obtained are filtered off and recrystallised from methylene chloride. 3-Allyl-4-hydroxy-cinnamic acid of melting point 132°-133° C is obtained.

reactant | 3-allyloxy-4-hydroxy-benzaldehyde | 0.27 mol, 48.5 g | C(C=C)OC=1C=C(C=O)C=CC1O | C10H10O3
reactant | malonic acid | 1 mol, 104 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 4 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 140 ml | N1=CC=CC=C1 | C5H5N
product | 3-Allyl-4-hydroxy-cinnamic acid | C(C=C)C=1C=C(C=CC(=O)O)C=CC1O | C12H12O3
